Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Chest pressure and melena
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ y/o M with PMHx significant for CAD s/p 2 
stents placed in ___ and 2 stents placed 12 days ago on ASA and 
Effient who is presenting with chest pressure radiating to the 
left arm, dizziness and melena seen at ___'s office.  
Patient states that for the past week he has noted chest 
pressure, worse when lying down as well as some radiation into 
the left arm. He also notes dizziness with exertion. Otherwise, 
no fevers, no nausea/vomiting.  Reportedly guiac positive and 
rectal exam was notable for melena at ___ office on ___ 
to the ED. 
 
In the ED initial vitals were: 98.5 68 144/91 18 98%  
Labs were significant for stable Hct of 45 x2 while in the ED, 
troponin elevated to 0.17 however CKMB wnl. EKG was concerning 
for T wave inversions. Cardiology was consulted who felt that 
his TnT elevation as well as EKG changes were consistent with 
his prior MI. GI was consulted and recommended admission and 
close monitoring, 2 large bore IVs, PPI, serial Hct, monitor 
stool quality/quantity, active type and screen.  
On the floor, vitals: 97 130/80 73 97% on RA.  
He denies any current cardiac complaints.  

 
Past Medical History:
- CAD s/p 2 left stents in ___, and 2 right stents 12 days ago 
anticoagulated on Effient  
- prostate cancer s/p surgery  
- Hypertension  
- Hyperlipidemia  

 
Social History:
___
Family History:
Father, brother and sister with CAD  
 
Physical Exam:
Admission:

GENERAL: NAD  
HEENT: AT/NC  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
R groin site: with scab and mild erythema directly surrounding 
site, no bruit heard  

Discharge:

PHYSICAL EXAM:  
Vitals -97.9 116/81 71 18 @100RA   
GENERAL: NAD  
HEENT: AT/NC  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 

 
Pertinent Results:
___ 11:10PM   HCT-45.2
___ 09:00PM   CK(CPK)-161
___ 09:00PM   CK-MB-4 cTropnT-0.16*
___ 02:52PM   WBC-12.0* RBC-5.00 HGB-15.6 HCT-45.2 MCV-90 
MCH-31.2 MCHC-34.5 RDW-13.7
___ 02:52PM   NEUTS-68.1 ___ MONOS-5.1 EOS-1.7 
BASOS-0.4
___ 02:52PM   PLT COUNT-306
___ 02:30PM   GLUCOSE-96 UREA N-14 CREAT-0.8 SODIUM-140 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-29 ANION GAP-16
___ 02:30PM   cTropnT-0.17*
___ 02:30PM   CK-MB-3
___ 02:30PM   ___ PTT-31.6 ___

ECHO ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is low normal 
(LVEF 50%) secondary to hypokinesis of the inferior and 
posterior walls. The right ventricular free wall thickness is 
normal. Right ventricular chamber size is normal. with mild 
global free wall hypokinesis. The aortic root is mildly dilated 
at the sinus level. The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. The left ventricular inflow pattern 
suggests impaired relaxation. There is no pericardial effusion.  


ECG ___: Sinus rhythm. Right bundle-branch block. Left 
atrial abnormality. 
Inferoposterior myocardial infarction of indeterminate age. 
Compared to the 
previous tracing there is no diagnostic change. 
TRACING #___ y/o M with PMHx significant for CAD s/p 2 stents placed in 
___ and 2 stents placed 12 days ago on ASA and Effient who is 
presenting with chest pressure radiating to the left arm, 
dizziness and melena seen at ___'s office.  

# Chest pressure  
Cardiology was consulted in ED who felt that his TnT elevation 
as well as EKG changes were consistent with his prior MI. He was 
admitted to ___ and monitored on telemetry with no events. EKG 
not concerning for new infarct and we did not appreciate classic 
changes indicative of pericarditis despite  positional chestt 
pain. Nonetheless, we ordered an ECHO, which did not show 
evidence of pericarditis. CRP was WNL. His chest pressure 
resolved after 24 hours of being inpatient. 

# Melena  
Pt has noted this for the past week and PCP noted melena and 
guiac positive stool on the day of admission. He is 
anticoagulated with asa and prasugrel as below. Cause of melena 
unclear, ___ in ___ positive for polyps according to pt. GI 
consulted and noted that heme positive stool would be expected 
occasionally on anticoagulation. Hct stable throughout 
admission. States he has some epigastic pain. Could be gastritis 
from alcohol or PUD thus we started Pantoprazole.  
- 2 large bore IVs  
- PO Pantoprazole  
- serial Hct  
- active T&S   

# CAD s/p stent placement  
S/p stent placement in ___ ___s 2 more 12 days ago. Tnt 
elevation and EKG changes likely ___ recent MI; not suggestive 
of new NSTEMI. And ECHO was not suggestive of enlargening 
infacrt.   
- per cardiology recs, we continued asa, statin, effient.  
# Hypertension  
- continued lisinopril and NIFEdipine  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Prasugrel 10 mg PO DAILY 
5. Lisinopril 10 mg PO BID 
6. NIFEdipine CR 30 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Lisinopril 10 mg PO BID 
4. NIFEdipine CR 30 mg PO DAILY 
5. Prasugrel 10 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
7. Senna 17.2 mg PO HS 
8. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Chest pain status-post recent percutaneous coronary intervention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital because you 
had blood in your stools and for chest pain.  We reviewed your 
recent cardiac catheterization results and you had an 
echocardiogram which did not suggest any new areas of injury to 
your heart.  We are reassured that your new stents are most 
likely still open and have no blockage.  You were evaluated by 
the gastroenterologists in the emergency department as well 
since you have been having some blood in your stools.  Your 
blood counts are normal and have all been stable so you did not 
have a significant gastrointestinal bleed.   You will not need a 
colonoscopy/upper endoscopy at this time. Please continue with 
your regularly scheduled colonoscopies. However, if your begin 
to notice more black stools rather than less, please report to 
the ED for evaluation. You are on medicine to thin your blood 
and thus at a greater risk for a major bleed. 

We made some changes to your medications to help minimize your 
chest pain symptoms.  You did not have any more chest pain 
during your hospitalization here.

Please follow-up with your outpatient providers as instructed 
below.  You should make sure your primary care physician 
provides you with a referral for a cardiologist.  Please 
continue taking your aspirin and Prasugrel daily as instructed.

Thank you for allowing us to participate in your care.

All best wishes for your recovery,
Your ___ care team
 
Followup Instructions:
___